US07378409B2
Synthesis of N-((1S,2R,4R)-4-(isopropyl(methyl)amino)-2-(methoxymethyl)cyclohexyl)-2-(6-(trifluoromethyl)quinazolin-4-ylamino)acetamide
A solution of the bis-trifluoroacetic acid salt of 2-amino-N-((1S,2R,4R)-4-(isopropyl(methyl)amino)-2-(methoxymethyl)cyclohexyl)acetamide (57 mg) in ethanol (4 mL) was treated with 4-chloro-6-(trifluoromethyl)quinazoline (40 mg) and triethylamine (0.08 mL). The mixture was heated at reflux overnight. The mixture was then cooled to rt and purified by reverse phase HPLC and lyopholization to provide the bis-trifluoroacetic acid salt of the title product as a white powder (42 mg). MS found: (M+H)+=468.4.

reactant | 2-amino-N-((1S,2R,4R)-4-(isopropyl(methyl)amino)-2-(methoxymethyl)cyclohexyl)acetamide | 57 mg | NCC(=O)N[C@@H]1[C@@H](C[C@@H](CC1)N(C)C(C)C)COC | C14H29N3O2
reactant | 4-chloro-6-(trifluoromethyl)quinazoline | 40 mg | ClC1=NC=NC2=CC=C(C=C12)C(F)(F)F | C9H4ClF3N2
reactant | triethylamine | 0.08 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | N-((1S,2R,4R)-4-(isopropyl(methyl)amino)-2-(methoxymethyl)cyclohexyl)-2-(6-(trifluoromethyl)quinazolin-4-ylamino)acetamide | 42 mg | C(C)(C)N([C@H]1C[C@H]([C@H](CC1)NC(CNC1=NC=NC2=CC=C(C=C12)C(F)(F)F)=O)COC)C | C23H32F3N5O2
